US08048897B2
(1) Synthesis of (2-Benzyloxyphenyl)-(4-cyclopropyl-phenyl)methanol
In a nitrogen stream, an n-butyllithium hexane solution (2.6 M, 3.5 mL) was added dropwise to a solution of 1-benzyloxy-2-bromobenzene (2.2 g, 8.3 mmol) in THF (83 mL) at −78° C. and the mixture was stirred at the same temperature for 30 minutes. To this solution, a solution of 4-cyclopropylbenzaldehyde (1.1 g, 6.9 mmol) in THF (280 mL) was added dropwise at −78° C. The reaction mixture was stirred at the same temperature for one hour. Water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (1.7 g, 75%).

reactant | n-butyllithium hexane | 2.6 M, 3.5 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-bromobenzene | 8.3 mmol, 2.2 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 4-cyclopropylbenzaldehyde | 6.9 mmol, 1.1 g | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | Water | O | H2O
solvent | THF | 83 mL | C1CCOC1 | C4H8O
solvent | THF | 280 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxyphenyl)-(4-cyclopropyl-phenyl)methanol | 1.7 g, 75% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)C1CC1 | C23H22O2
